US07470699B2
Preparation of 4-{6-[2-Fluoro-4-(2-isopropoxy-ethylsulfamoyl)-phenylamino]-5-methyl-pyrimidin-4-yloxy}-piperidine-1-carboxylic acid isopropyl ester (Compound A106)
A mixture of 4-amino-3-fluoro-N-(2-isopropoxy-ethyl)-benzenesulfonamide (116 mg, 0.42 mmol), 4-(6-chloro-5-methyl-pyrimidin-4-yloxy)-piperidine-1-carboxylic acid isopropyl ester (100 mg, 0.3 mmol), palladium acetate (3 mg, 0.017 mmol), biphenyl-2-yl-di-tert-butyl-phosphane (7.1 mg, 0.034 mmol), and sodium t-butoxide (87 mg, 0.90 mmol) in dioxane (2 mL) was heated under microwave irradiation for 60 min at 150° C. The crude mixture was concentrated in vacuo and purified by HPLC to provide Compound A106 as a brown solid (50 mg, 22%). 1H NMR (CDCl3, 400 MHz) δ 1.04 (d, 6H), 1.19 (d, 6H), 1.67-1.78 (m, 2H), 1.89-1.99 (m, 5H), 3.05 (t, 2H), 3.30-3.40 (m, 4H), 3.42-3.52 (m, 1H), 3.66-3.76 (m, 1H), 4.87 (h, 1H), 5.19-5.38 (m, 2H), 7.58 (t, 3H), 7.90-7.98 (s broad, 1H), 8.24 (t, 1H), 8.35 (s, 1H). Exact mass calculated for C23H36FN5O6S 553.65, found 554.6 (MH+).

reactant | 4-amino-3-fluoro-N-(2-isopropoxy-ethyl)-benzenesulfonamide | 0.42 mmol, 116 mg | NC1=C(C=C(C=C1)S(=O)(=O)NCCOC(C)C)F | C11H17FN2O3S
reactant | 4-(6-chloro-5-methyl-pyrimidin-4-yloxy)-piperidine-1-carboxylic acid isopropyl ester | 0.3 mmol, 100 mg | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C)Cl | C14H20ClN3O3
reactant | biphenyl-2-yl-di-tert-butyl-phosphane | 0.034 mmol, 7.1 mg | C1(=C(C=CC=C1)P(C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C20H27P
reactant | sodium t-butoxide | 0.90 mmol, 87 mg | CC(C)([O-])C.[Na+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.017 mmol, 3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-{6-[2-Fluoro-4-(2-isopropoxy-ethylsulfamoyl)-phenylamino]-5-methyl-pyrimidin-4-yloxy}-piperidine-1-carboxylic acid isopropyl ester | 50 mg, 22% | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C)NC1=C(C=C(C=C1)S(NCCOC(C)C)(=O)=O)F | C25H36FN5O6S
